US05726191
30 g of 6-hydroxynicotinic acid were treated with 500 ml of benzyl alcohol and 1 ml of concentrated sulfuric acid. After boiling at reflux for 3 days, the reaction mixture was poured on to ice-water, extracted several times with ethyl acetate, washed with water, dried over sodium sulfate and evaporated, firstly in a water-jet vacuum and then in a high vacuum. The semi-crystalline residue was filtered over silica gel (eluent hexane/ethyl acetate=2:1, then ethyl acetate) and recrystallized from ethyl acetate/hexane. There were obtained 19 g of benzyl 6-hydroxy-nicotinate in colourless crystals, m.p. 178°-179° C.

reactant | 6-hydroxynicotinic acid | 30 g | OC1=NC=C(C(=O)O)C=C1 | C6H5NO3
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | benzyl alcohol | 500 ml | C(C1=CC=CC=C1)O | C7H8O
product | benzyl 6-hydroxy-nicotinate | 19 g | OC1=NC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C13H11NO3
